US08084645B2
N-[2-(t-Butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-vinyl-benzamide (6.35 g, 10.7 mmol) prepared in Process A was dissolved in a mixed solvent of THF (100 ml) and water (30 ml). Aqueous solution of osmium tetroxide (0.1 mM, 2 ml, 0.2 mmol), and sodium metaperiodate (9.0 g, 42.1 mmol) were added at 10° C., and the mixture was stirred at room temperature for 17 hours. Insoluble material was removed through a celite column, and the solution was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, the organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (300 g, n-hexane/ethyl acetate (5:1)) to give N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-formyl-benzamide (3.24 g, 51%) as a brown solid.

reactant | N-[2-(t-Butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-vinyl-benzamide | 10.7 mmol, 6.35 g | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=C)F)F)NC1=C(C=C(C=C1)I)F)=O | C23H28F3IN2O3Si
reactant | sodium metaperiodate | 42.1 mmol, 9.0 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
catalyst | osmium tetroxide | 0.2 mmol, 0.1 mM, 2 ml | [Os](=O)(=O)(=O)=O
product | N-[2-(t-butyldimethylsilanyloxy)-ethoxy]-3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-5-formyl-benzamide | 3.24 g, 51% | [Si](C)(C)(C(C)(C)C)OCCONC(C1=C(C(=C(C(=C1)C=O)F)F)NC1=C(C=C(C=C1)I)F)=O | C22H26F3IN2O4Si
